US08754095B2
4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-N-(tetrahydro-pyran-4-ylmethyl)-benzamide
4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-benzoic acid (0.17 g, 0.625 mmol) was dissolved in DCM (4 mL) and DMF (2 mL) and the solution was cooled to an ice-water bath. To this solution was added a solution of tetrahydropyran-4-yl amine (0.1 g, 0.86 mmol, 1 equiv.) in 1 mL of DCM, followed by N-methylmorpholine (0.2 mL, 3 equiv.), 1-Hydroxylbenzotriazole (HOBT) (0.11 g, 1.3 equiv.), sequentially, and finally EDC.HCl (0.104 g, 1.3 equiv.). The resultant clear light brown solution was stirred at r.t. overnight. TLC (10% MeOH in DCM) and LC/MS detected the product peak at retention time of 2.152 min with MS 372.35. The reaction was quenched with saturated sodium bicarbonate aqueous solution (10 mL) and 10 mL of DCM. The two layers were separated, and the aqueous layer was extracted with DCM (15 mL×2). The combined DCM extracts were washed with sodium bicarbonate (10 mL), and brine (10 mL), dried (anhydrous potassium carbonate), filtered, and concentrated in vacuo to get 0.17 g (74%) of the titled compound as a solid.

reactant | 4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-benzoic acid | 0.625 mmol, 0.17 g | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC=C(C(=O)O)C=C1 | C16H22N2O2
reactant | tetrahydropyran-4-yl amine | 0.86 mmol, 0.1 g, 1 equiv. | O1CCC(CC1)N | C5H11NO
reactant | N-methylmorpholine | 0.2 mL, 3 equiv. | CN1CCOCC1 | C5H11NO
reactant | 1-Hydroxylbenzotriazole | 0.11 g, 1.3 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC.HCl | 0.104 g, 1.3 equiv. | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-N-(tetrahydro-pyran-4-ylmethyl)-benzamide | 0.17 g, 74% | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC=C(C(=O)NCC2CCOCC2)C=C1 | C22H33N3O2
